US08530490B2
Synthesis of 3-(cyclopropylmethoxy)-N-(4-(methoxymethoxy)butyl)benzenesulfonamide
A colorless oil (285 mg) was obtained according to the method of Reference Example 233 from 4-aminobutanol (89 mg) and 3-benzoyloxybenzenesulfonyl chloride (300 mg) obtained according to a method described in the document (J. Pesticide. Chem., 13, 107-115 (1988)). This oil was dissolved in methanol (5.0 mL). To the solution, DBU (441 mg) was added, and the mixture was stirred at room temperature for 45 minutes. To the reaction mixture, acetic acid (210 μL) was added, and the mixture was stirred at room temperature for 10 minutes. The reaction mixture was then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (100% ethyl acetate). The obtained colorless oil (147 mg) was dissolved in DMF (4.0 mL). To the solution, potassium carbonate (141 mg), potassium iodide (8.5 mg), and (chloromethyl)cyclopropane (47 μL) were added, and the mixture was stirred at 90° C. for 14 hours. The reaction mixture was cooled to room temperature, water (10 mL) was then added thereto, and the resultant mixture was then extracted with ethyl acetate (10 mL). The organic layer was washed with water (10 mL) and brine (10 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30% ethyl acetate/hexane) to obtain the title compound (91 mg) as a colorless oil.

reactant | 4-aminobutanol | 89 mg | NCCCCO | C4H11NO
reactant | 3-benzoyloxybenzenesulfonyl chloride | 300 mg | C(C1=CC=CC=C1)(=O)OC=1C=C(C=CC1)S(=O)(=O)Cl | C13H9ClO4S
reactant | DBU | 441 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | acetic acid | 210 μL | C(C)(=O)O | C2H4O2
solvent | methanol | 5.0 mL | CO | CH4O
product | 3-(cyclopropylmethoxy)-N-(4-(methoxymethoxy)butyl)benzenesulfonamide | 91 mg | C1(CC1)COC=1C=C(C=CC1)S(=O)(=O)NCCCCOCOC | C16H25NO5S
